US06770667B1
To a solution of 2-methoxycarbonyl-5-phenylthiophene (437 mg) in methanol (5 ml) and tetrahydrofuran (5 ml) was added an aqueous solution of sodium hydroxide (IN, 3 ml) followed by stirring for 2 hours. To the mixture was added hydrochloric acid (IN, 5 ml). The precipitate was collected by filtration and dried to give 5-phenylthiophene-2-carboxylic acid (397 mg, 97.1%).

reactant | 2-methoxycarbonyl-5-phenylthiophene | 437 mg | COC(=O)C=1SC(=CC1)C1=CC=CC=C1 | C12H10O2S
reactant | sodium hydroxide | 3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 5-phenylthiophene-2-carboxylic acid | 397 mg, 97.1% | C1(=CC=CC=C1)C1=CC=C(S1)C(=O)O | C11H8O2S
